US06743790B2
46a. 2-Benzyloxyaminoacetic Acid Tert-Butyl Ester
To a solution of O-benzylhydroxylamine hydrochloride (5 g, 31.3 mmol) in dry DMF (20 ml) was added tert-butyl 2-bromoacetate (4.7 ml, 1 eq.) and potassium carbonate (4.5 g, 1 eq.). The solution was stirred for 16 h at room temperature. The precipitate was filtered off. The solvent was removed, the residue was dissolved in ethyl acetate and extracted with small portions of 1 N HCl, sodium carbonate solution and brine. After drying over sodium sulfate, the solvent was removed to dryness to give 5.86 g (79%) of the title compound as an oil of sufficient purity. MS 182.1 (M+1-tert-butyl)+

reactant | O-benzylhydroxylamine hydrochloride | 31.3 mmol, 5 g | Cl.C(C1=CC=CC=C1)ON
reactant | tert-butyl 2-bromoacetate | 4.7 ml, 1 eq. | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 4.5 g, 1 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-Benzyloxyaminoacetic Acid Tert-Butyl Ester | 5.86 g, 79% | C(C)(C)(C)OC(CNOCC1=CC=CC=C1)=O | C13H19NO3
